US04743585
A stirred suspension of (±)-3,6-dioxo-2-(phenylmethyl)-4-piperidinecarboxylic acid, phenylmethyl ester, 1.59 g (0.0047 mole) and 0.2 g of 20% palladium on carbon in 200 ml of ethyl acetate was exposed to hydrogen gas for 15 minutes, the suspension was purged with nitrogen gas, filtered, and the solvent evaporated in vacuo and the residue chromatographed using 100 g of silica gel and eluting with 200 ml of dichloromethane-methanol (98:2) and 200 ml of dichloromethane-methanol (97:3) to give (±)-6-(phenylmethyl)-2,5-piperidinedione, 0.8 g; mp 140°-141°.

reactant | (±)-3,6-dioxo-2-(phenylmethyl)-4-piperidinecarboxylic acid, phenylmethyl ester | O=C1C(NC(CC1C(=O)OCC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C20H19NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (±)-6-(phenylmethyl)-2,5-piperidinedione | C1(=CC=CC=C1)CC1C(CCC(N1)=O)=O | C12H13NO2
